US07977351B2
3-(1-Ethyl-6-trifluoromethyl-1H-furo[3,4-c]pyridin-3-ylidene)-5-fluoro-1,3-dihydro-indol-2-one
A solution of 5-fluoro-1,3-dihydro-indol-2-one (99 mg, 0.66 mmol.) in THF (2 mL) is cooled to 0° C. under an Argon atmosphere and treated with a solution of lithium bis(trimethylsilyl)amide (1.3 mL of a 1 M solution in THF, 1.3 mmol) dropwise. The resulting solution is stirred at 0° C. for 10 min and warmed to room temperature. A solution of 1-ethyl-6-trifluoromethyl-1H-furo[3,4-c]pyridin-3-one, (100 mg, 0.44 mmol) in THF (2 mL) is added dropwise to the reaction mixture. The resulting solution is stirred for 4 h. The reaction mixture is poured into aqueous 10% HCl solution (50 mL). The resulting mixture is heated to 90° C. for 45 min and then stirred at room temperature for 36 h. The precipitate which formed is collected by filtration and dried. The solid obtained is purified by chromatography (silica gel, 40% EtOAc/hexane). The product containing fractions are concentrated to give the title compound as a yellow solid (30 mg, 19%).

reactant | 5-fluoro-1,3-dihydro-indol-2-one | 0.66 mmol, 99 mg | FC=1C=C2CC(NC2=CC1)=O | C8H6FNO
reactant | lithium bis(trimethylsilyl)amide | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | 1-ethyl-6-trifluoromethyl-1H-furo[3,4-c]pyridin-3-one | 0.44 mmol, 100 mg | C(C)C1OC(C=2C=NC(=CC21)C(F)(F)F)=O | C10H8F3NO2
reactant | HCl | 50 mL | Cl | ClH
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 3-(1-Ethyl-6-trifluoromethyl-1H-furo[3,4-c]pyridin-3-ylidene)-5-fluoro-1,3-dihydro-indol-2-one | 30 mg, 19% | C(C)C1OC(C=2C=NC(=CC21)C(F)(F)F)=C2C(NC1=CC=C(C=C21)F)=O | C18H12F4N2O2
